data/mechanisms/records/IMS4-EQ4.38a.json
{"mechanism_id": "IMS4-EQ4.38a", "species": [{"species_id": "hexanol_molecular_ion_O_ionized", "mapped_smiles": "[CH3:1][CH2:2][CH:3]([1H:8])[CH2:4][CH2:5][CH2:6][OH+:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_C_radical_oxonium", "mapped_smiles": "[CH3:1][CH2:2][CH:3][CH2:4][CH2:5][CH2:6][OH+:7][1H:8]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "hexene_distonic_radical_cation_mz84", "mapped_smiles": "[CH3:1][CH2:2][CH:3][CH2:4][CH2:5][CH2+:6]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "water_neutral_loss", "mapped_smiles": "[OH:7][1H:8]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexanol_molecular_ion_O_ionized"]}, {"state_id": "state_intermediate", "species_ids": ["distonic_C_radical_oxonium"]}, {"state_id": "state_products", "species_ids": ["hexene_distonic_radical_cation_mz84", "water_neutral_loss"]}], "steps": [{"step_id": "step_rH_hydrogen_rearrangement", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 8]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 8]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_i_inductive_water_loss_charge_migration", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_hydrogen_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 76, "equation": "4.38", "figure": null, "panel": null, "section": "4 / Basic Mechanisms of Ion Fragmentation (Hydrogen rearrangement to a saturated heteroatom with adjacent cleavage)"}, "confidence": 0.85, "curator_note": "Same six-membered H-rearrangement as eq 4.37 (the lower 'rH' arrow of the shared scheme on p.76), reproduced here as the first step of the charge-migration channel eq 4.38. The alcohol is n-ionized at oxygen (O+. localized, convention B); the delta C-H (map 3) is abstracted by the oxygen radical. ARC COUNT: the book draws 3 arc(s) and all three fishhooks are printed -- move <1> = O odd electron (map 7) into the forming O7-H8 bond; move <2> = one C3-H8 sigma electron into that O-H bond; move <3> = the other C3-H8 electron onto carbon map 3. Product = the distonic ion with a carbon radical (map 3) and a -O+H2 oxonium (map 6-O7). Instantiated for 1-hexanol (M = C6H14O, m/z 102), whose C2H5 terminus is drawn explicitly in this branch."}, {"evidence_id": "evidence_step_i", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_i_inductive_water_loss_charge_migration", "support_type": "textbook_proposed", "locator": {"page": 76, "equation": "4.38", "figure": null, "panel": null, "section": "4 / Basic Mechanisms of Ion Fragmentation (charge migration, inductive cleavage 'i')"}, "confidence": 0.85, "curator_note": "Charge-migration ('i', inductive) water loss of eq 4.38: the C6-O bond of the oxonium ionizes heterolytically, both bonding electrons going to oxygen so that neutral HOH departs and the charge migrates onto carbon map 6 (a carbenium ion); the carbon radical on map 3 is untouched, giving the distonic hydrocarbon radical cation C6H12+. at m/z 84 (11%). ARC COUNT: the book draws 1 arc -- a single full (double-barbed) arrow from the C6-O7 bond onto the oxygen (drawn as the arc looping off 'HOH+'), so no implicit hook is needed; move <1> carries electron_count 2. (The arrow checker reports a soft note that the +2 electrons landing on oxygen form a lone pair rather than two radicals -- expected for a heterolytic cleavage.)"}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 102.1039, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_84", "species_id": "hexene_distonic_radical_cation_mz84", "step_id": "step_i_inductive_water_loss_charge_migration", "observed_mz": 84.0934, "relative_intensity": 0.11, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
